US04182776
p-{[2-(1-Naphthyloxy)ethyl]amino}benzoic acid
A solution of 12 g of ethyl p-[2-(1-naphthyloxy)-ethylamino]benzoate and 15.8 g of potassium hydroxide in 100 ml of 95% ethanol is refluxed for 3 hours. The solution is diluted with 75 ml of water and acidified with concentrated hydrochloric acid. The solid is filtered, washed with 50% ethanol and with water. Recrystallization from ethanol gives the product as crystals, mp 193°-194° C.

reactant | ethyl p-[2-(1-naphthyloxy)-ethylamino]benzoate | 12 g | C1(=CC=CC2=CC=CC=C12)OCCNC1=CC=C(C(=O)OCC)C=C1 | C21H21NO3
reactant | potassium hydroxide | 15.8 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 75 ml | O | H2O
product | p-{[2-(1-Naphthyloxy)ethyl]amino}benzoic acid | C1(=CC=CC2=CC=CC=C12)OCCNC1=CC=C(C(=O)O)C=C1 | C19H17NO3
